US05308842
Step B: Preparation of 3,4-dihydro-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide
A suspension of 4-acetamido-3,4-dihydro-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide (4.93 g, 0.02 mol) in tetrahydrofuran (50 ml) was heated in an oil bath at 70° C. Borane-dimethyl sulfide complex (20.0 ml of 10.0M, 0.20 mol) was added dropwise over 1/2 hour and the mixture was stirred at 70° C. for 4 hrs. The mixture was cooled in ice and methanol was added (50 ml) dropwise. The volatile solvents were removed in vacuo and the residual oil was heated with 6N hydrochloric acid (50 ml) on the steam bath for 1/2 hr. Ethyl acetate (200 ml) was added and the mixture was basified with sodium bicarbonate. Methanol (20 ml), was added, the mixture filtered and the aqueous layer was re-extracted with ethyl acetate (100 ml) -methanol (10 ml). The organic solutions were combined, dried and concentrated in vacuo. A colorless viscous oil (4.47 g) was recovered. Yield 96%.

reactant | 4-acetamido-3,4-dihydro-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide | 0.02 mol, 4.93 g | C(C)(=O)NC1CNS(C2=C1C=CS2)(=O)=O | C8H10N2O3S2
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,4-dihydro-4-ethylamino-2H-thieno[3,2-e]-1,2-thiazine-1,1-dioxide | Yield 96% | C(C)NC1CNS(C2=C1C=CS2)(=O)=O | C8H12N2O2S2
